US08076336B2
c) 3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide
N-Methoxy-N-methyl-5-nitro-3-pentafluorosulfanylbenzamide (4.2 g) was dissolved in methanol (120 ml), and Raney nickel (approx. 700 mg) was added. With a hydrogen balloon attached, hydrogenation was effected on a magnetic stirrer. After 5 h, the catalyst was filtered off and washed with methanol. The filtrate was concentrated under reduced pressure and the residue was purified by means of preparative chromatography. The product-containing fractions were combined, freed of the acetonitrile, basified with sodium hydrogencarbonate solution and extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 1.73 g of the desired compound were obtained.

reactant | N-Methoxy-N-methyl-5-nitro-3-pentafluorosulfanylbenzamide | 4.2 g | CON(C(C1=CC(=CC(=C1)[N+](=O)[O-])S(F)(F)(F)(F)F)=O)C | C9H9F5N2O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | Raney nickel | approx. 700 mg | [Ni] | Ni
product | 3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide | 1.73 g | NC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C9H11F5N2O2S
